US09260413B2
To a suspension of sodium hydride (3.3 g, 60% in paraffin oil, 82.5 mmol) in dry ether (100 mL) and dry ethyl formate (5.55 g, 75 mmol) was added ethyl(benzyloxy)acetate (14.57 g, 75 mmol) dropwise with stirring. The resulting mixture solution was then refluxed for 2 h and concentrated to give crude ethyl 2-(benzyloxy)-3-oxopropanoate which was used in the subsequent step without further purification.

reactant | sodium hydride | 82.5 mmol, 3.3 g | [H-].[Na+]
reactant | ethyl formate | 75 mmol, 5.55 g | C(=O)OCC | C3H6O2
reactant | ethyl(benzyloxy)acetate | 75 mmol, 14.57 g | C(C)OC(COCC1=CC=CC=C1)=O | C11H14O3
solvent | ether | 100 mL | CCOCC | C4H10O
product | ethyl 2-(benzyloxy)-3-oxopropanoate | C(C1=CC=CC=C1)OC(C(=O)OCC)C=O | C12H14O4
